US07410982B2
7-[(1S)-(3-Chloro-1-phenyl-propoxy)]-thieno[3,2-b]pyridine
using (R)-(+)-3-chloro-1-phenyl-1-propanol, thieno[3,2-b]pyridin-7-ol (commercially available from the Aldrich Chemical Company), PBu3, and ADPP gave the title compound (0.71 g, 54%); Mass spectrum (ion spray): m/z=304.06 (m+1).

reactant | (R)-(+)-3-chloro-1-phenyl-1-propanol | ClCC[C@@H](O)C1=CC=CC=C1 | C9H11ClO
reactant | thieno[3,2-b]pyridin-7-ol | S1C=CC2=NC=CC(=C21)O | C7H5NOS
reactant | PBu3 | P(CCCC)(CCCC)CCCC | C12H27P
product | 7-[(1S)-(3-Chloro-1-phenyl-propoxy)]-thieno[3,2-b]pyridine | 0.71 g, 54% | ClCC[C@H](OC1=C2C(=NC=C1)C=CS2)C2=CC=CC=C2 | C16H14ClNOS
